US08835659B2
Preparation of 2-(3,5-difluorophenyl)benzofuran-4,6-diol, with the Following Structural Formula
This compound was prepared using Method A from 3,5-dimethoxyphenol and 2-bromo-1-(3,5-difluorophenyl)ethanone: Yield 60% following procedures A.2 and A.5; m.p. 208-209° C.; IR 3353, 3092, 1615, 1780, 1432, 1349, 1125 cm−1; 1H-NMR (500 MHz, δ ppm, DMSO-d6) 10.05 (s, 1H), 9.54 (s, 1H), 7.49 (d, J=6.8 Hz, 2H), 7.47 (s, 1H), 7.15 (t, J=8.6 Hz, 1H), 6.43 (s, 1H), 6.21 (s, 1H); 13C-NMR (126 MHz, δ ppm, CDCl3) 165.1 (dd, J=246.3 Hz, 13.3 Hz), 158.9, 158.9, 152.9, 151.65, 135.7 (t, J=10.6 Hz), 112.7, 107.7 (dd, J=21.0 Hz, 6.8 Hz), 103.3 (t, J=26.1 Hz), 102.6, 99.2, 90.8.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(3,5-difluorophenyl)ethanone | BrCC(=O)C1=CC(=CC(=C1)F)F | C8H5BrF2O
product | 2-(3,5-difluorophenyl)benzofuran-4,6-diol | Yield 60% | FC=1C=C(C=C(C1)F)C=1OC=2C(C1)=C(C=C(C2)O)O | C14H8F2O3
